US04259334
(a) 2-(2,6-Dimethyl-phenoxy)-1-bromo-ethane
To a solution containing sodium hydroxide (80 g) in water (1 liter) and ethanol (0.5 liter) are added 2,6-dimethyl-phenol (245 g) dissolved in ethanol (0.5 liter), and then dibromoethane (750 g). The mixture is refluxed for 48 hours, under vigorous stirring. It is then extracted with methylene chloride. After washing with dilute aqueous sodium hydroxide and then with water, the solvent is evaporated in vacuo. 2(2,6-Dimethyl-phenoxy)-1-bromo-ethane boils at 148°-150° C./25 mm Hg.

reactant | sodium hydroxide | 80 g | [OH-].[Na+]
reactant | 2,6-dimethyl-phenol | 245 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | dibromoethane | 750 g | BrC(C)Br | C2H4Br2
solvent | water | 1 liter | O | H2O
solvent | ethanol | 0.5 liter | C(C)O | C2H6O
solvent | ethanol | 0.5 liter | C(C)O | C2H6O
product | 2-(2,6-Dimethyl-phenoxy)-1-bromo-ethane | CC1=C(OCCBr)C(=CC=C1)C | C10H13BrO
